US07943639B2
1-(3-Chloro-2-methyl-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride
3-Chloro-2-methylbenzenesulfonyl chloride (29.0 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (6.3 mg). LC/MS RT: 1.563 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 96%. MS: 392 (M+1).

reactant | 3-Chloro-2-methylbenzenesulfonyl chloride | 29.0 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-(3-Chloro-2-methyl-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride | 6.3 mg | Cl.ClC=1C(=C(C=CC1)S(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2)C | InChI=1S/C18H19ClN4O2S.ClH/c1-13-15(19)3-2-4-17(13)26(24,25)23-10-6-14-16(23)5-7-21-18(14)22-11-8-20-9-12-22;/h2-7,10,20H,8-9,11-12H2,1H3;1H
